* AD8698 SPICE Macro-model Typical Values at Vs=±15V
* Description: Amplifier
* Generic Desc: 5/30V, BIP, OP, Low Ib, RRO, 2X
* Developed by: Soufiane Bendaoud, ADSiV apps
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (05/2004)
* Copyright 2004, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: 
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node Assignments
*		        noninverting input
*	            	|	inverting input
*		        |	|	positive supply
*		        |	|	|	negative supply
*		        |	|	|	|	output
*		        |	|	|	|	|
*		        |	|	|	|	|
.SUBCKT AD8698		1	2	99	50	45
*
*INPUT STAGE
*
Q1   5  7 15 PIX
Q2   6  2 15 PIX
IOS  1  2 350E-12
I1  99 15 100E-6
EOS  7  1 POLY(4) (14,98) (73,98) (81,98) (70,98)  20E-6 1 1 1 1
RC1  5 50 6E3
RC2  6 50 6E3
C1   5  6 6.5E-12
D1  15  8 DX
V1  99  8 DC 0.9
*


* CMRR=100dB
*
ECM   13 98 POLY(2) (1,98) (2,98) 0 0.0075 0.0075
RCM1  13 14 1.59E1
RCM2  14 98 1.06E-2
CCM1  13 14 1E-6
*

* PSRR=85dB
*
EPSY 98 72 POLY(1) (99,50) 0 0.56234
CPS3 72 73 1E-12
RPS3 72 73 1.59e3
RPS4 73 98 1.59E-1
*
* POLE AT 20MHz, ZERO AT 60MHz
*
G1 21 98 (5,6) 5.88E-6
R1 21 98 170E3
R2 21 22 85E3
C2 22 98 40E-15
*

* VOLTAGE NOISE REFERENCE OF 8nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 20E-3
HN  81 98 VN1 6.5
RN2 81 98 1

*flicker noise 

D5 69 98 DNOISE
VSN 69 98 DC .6551
H1 70 98 VSN 80
RN 70 98 1


* INTERNAL VOLTAGE REFERENCE
*

EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50  (99,50) 60E-6  
EVP  97 98 POLY(1) (99,50) -0.6 0.5
EVN  51 98 POLY(1) (50,99) 0.6 0.5

*
* GAIN STAGE
*
G2  25 98 (21,98) 3.33E-6
R5  25 98 5.75E9
CF  45 25 5E-12
D3  25 99 DX
D4  50 25 DX

*
* OUTPUT STAGE
*
Q3   45 41 99 POUT
Q4   45 43 50 NOUT
EB1  99 40 POLY(1) (98,25) 0.6535  1
EB2  42 50 POLY(1) (25,98) 0.6535  1
RB1  40 41 200
RB2  42 43 200
*
* MODELS
*
.MODEL PIX PNP (BF=71429,IS=1E-16,KF=10E-16,AF=.5)
.MODEL POUT PNP (BF=100,IS=1E-14,BR=1.689)
.MODEL NOUT NPN (BF=100,IS=1E-14,BR=2.112)
.MODEL DX D(IS=1E-14,CJO=1E-15)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=1E-15)

.ENDS AD8698
*$





